US05135543
To a stirred solution of 3,4-dinitrotoluene (3.64 g, 20 mmol) and N,N-dimethylethylenediamine (1.76 g, 20 mmol) was heated at 80° C. in dimethyl sulfoxide and catalytic amount of TDA-1 for 2 hours. N,N-Dimethyl-2-(5-methyl-2-nitroanilino)ethanamine was isolated in 80% yield (3.6 g, 16 mmol) after aqueous work-up. Quaternization was achieved in quantitative yield with methyl iodide and dimethylformamide. Its melting point was 225°-7° C.

reactant | 3,4-dinitrotoluene | 20 mmol, 3.64 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])C | C7H6N2O4
reactant | N,N-dimethylethylenediamine | 20 mmol, 1.76 g | CN(CCN)C | C4H12N2
reactant | TDA-1 | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | N,N-Dimethyl-2-(5-methyl-2-nitroanilino)ethanamine | 80% yield | CN(CCNC1=C(C=CC(=C1)C)[N+](=O)[O-])C | C11H17N3O2
